US04211867
N-Phenyl-1-pyrrolidinecarboximidamide Hydrochloride:
To 1.74 g (0.01 mole) of phenyl isocyanide dichloride is added 0.71 g (0.01 mole) of pyrrolidine and 1.01 g (0.01 mole) of triethylamine under N2 in dry ether with stirring and cooling. The resulting mixture is allowed to stir for 1/2 hr and the resultant Et3N.HCl is filtered. The filtrate is added to a saturated solution of anhydrous NH3 in isopropanol. The resulting NH4Cl is filtered and the filtrate is concentrated in vacuo to remove excess ammonia, followed by the addition of dry HCl resulting in crystalline product, N-phenyl-1-pyrrolidinecarboximidamide hydrochloride, m.p. 181°-84° C. after crystallization from methanol-isopropanol.

reactant | phenyl isocyanide dichloride | 0.01 mole, 1.74 g | C1=CC=C(C=C1)N=C(Cl)Cl | C7H5Cl2N
reactant | pyrrolidine | 0.01 mole, 0.71 g | N1CCCC1 | C4H9N
reactant | triethylamine | 0.01 mole, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | N-Phenyl-1-pyrrolidinecarboximidamide Hydrochloride | Cl.C1(=CC=CC=C1)NC(=N)N1CCCC1 | InChI=1S/C11H15N3.ClH/c12-11(14-8-4-5-9-14)13-10-6-2-1-3-7-10;/h1-3,6-7H,4-5,8-9H2,(H2,12,13);1H
